US07825253B2
N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(3-cyclopropyl-phenyl)-quinoline-2,5-diamine
The title compound, MS: m/e=406.5 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 3-cyclopropylaniline and 1H-benzimidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3-cyclopropylaniline | C1(CC1)C=1C=C(N)C=CC1 | C9H11N
reactant | 1H-benzimidazole-5-carbaldehyde | N1C=NC2=C1C=CC(=C2)C=O | C8H6N2O
product | N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(3-cyclopropyl-phenyl)-quinoline-2,5-diamine | N1C=NC2=C1C=CC(=C2)CNC=2C=1C=CC(=NC1C=CC2)NC2=CC(=CC=C2)C2CC2 | C26H23N5
